US07981874B2
{Amino-[4-(2-amino-5-thiophen-2-yl-phenylcarbamoyl)-phenyl]-methyl}-phosphonic acid dimethyl ester.
4-[tert-Butoxycarbonylamino-(dimethoxy-phosphoryl)-methyl]-benzoic acid (76 mg, 0.212 mmol), (2-amino-4-thiophen-2-yl-phenyl)-carbamic acid tert-butyl ester (74 mg, 0.254 mmol), EDC (61 mg, 0.317 mmol), HOBT (39 mg, 0.254 mmol), and DIPEA (82 mg, 0.635 mmol) were combined and diluted with DMF (0.85 mL). The resulting mixture was stirred at ambient temperature for 18 hours. The reaction mixture was purified directly by HPLC (20-85% MeCN in water w/0.025% TFA). Pure fractions were identified, combined, then concentrated in vacuo. The residue was diluted with 10:1 DCM:TFA and stirred at ambient temperature. After 2 h the mixture was concentrated in vacuo to give the title compound: 1H NMR (DMSO-d6, 600 MHz) 9.81 (s, 1H), 9.06 (br-s, 2H), 8.05 (d, J=9.0 Hz, 2H), 7.62 (d, J=9.0 Hz, 2H), 7.44-7.46 (m, 1H), 7.34-7.36 (m, 1H), 7.29-7.32 (m, 1H), 7.22-7.24 (m, 1H), 7.03-7.05 (m, 1H), 6.82 (d, J=7.8 Hz, 2H), 5.20 (d, J=17.4 Hz, 1H), 3.73 (d, J=10.8 Hz, 3H), 3.58 (d, J=10.8 Hz, 3H). MS: cal'd 432 (MH+), exp 432 (MH+).

reactant | 4-[tert-Butoxycarbonylamino-(dimethoxy-phosphoryl)-methyl]-benzoic acid | 0.212 mmol, 76 mg | C(C)(C)(C)OC(=O)NC(C1=CC=C(C(=O)O)C=C1)P(=O)(OC)OC | C15H22NO7P
reactant | (2-amino-4-thiophen-2-yl-phenyl)-carbamic acid tert-butyl ester | 0.254 mmol, 74 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C=1SC=CC1)N)=O | C15H18N2O2S
reactant | EDC | 0.317 mmol, 61 mg
reactant | HOBT | 0.254 mmol, 39 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 0.635 mmol, 82 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.85 mL | CN(C)C=O | C3H7NO
product | {Amino-[4-(2-amino-5-thiophen-2-yl-phenylcarbamoyl)-phenyl]-methyl}-phosphonic acid dimethyl ester | COP(OC)(=O)C(C1=CC=C(C=C1)C(NC1=C(C=CC(=C1)C=1SC=CC1)N)=O)N | C20H22N3O4PS
